US06476041B1
A mixture of 8 g of 1,2-phenylenediamine and 6.6 g of 4-pentenoic acid in 50 mL of 4N hydrochloric acid was heated to reflux for 18 hours, cooled in an ice bath, made basic (pH=8) with ammonium hydroxide and extracted into 3×100 mL of ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. After drying under vacuum, 10 g of 4-(1H-benzimidazol-2-yl)-butan-2-ol was obtained as a thick oil which slowly crystallized.

reactant | 1,2-phenylenediamine | 8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 4-pentenoic acid | 6.6 g | C(CCC=C)(=O)O | C5H8O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 4N, 50 mL | Cl | ClH
product | 4-(1H-benzimidazol-2-yl)-butan-2-ol | 10 g | N1C(=NC2=C1C=CC=C2)CCC(C)O | C11H14N2O
